### PR TITLE
Closing sorryful results with tags:

### PR DESCRIPTION
**Pull request by kastch**
Removed the sorryful results 
- StandardModel.gaugeGroupℤ₆SubGroup 
- StandardModel.GaugeGroupℤ₆

Also added minimal projection and quotient-map API for the new definitions.

### CODE REVIEW

File: Physlib/Particles/StandardModel/Basic.lean [hunk 1]
```diff
@@ -109,22 +110,214 @@ lemma ofU1Subgroup_toU1 (u1 : unitary ℂ) :
     toU1 (ofU1Subgroup u1) = u1 := rfl
 end GaugeGroupI
 
+/-- The unitary complex number associated to a sixth root of unity. -/
+noncomputable def gaugeGroupℤ₆UnitaryOfRoot (α : rootsOfUnity 6 ℂ) : unitary ℂ :=
```
Comment (jstoobysmith) [inline Physlib/Particles/StandardModel/Basic.lean:114]: Maybe this would be better in its own file `./StandardModel/Z6Subgroup.lean`?

File: Physlib/Particles/StandardModel/Basic.lean [hunk 2]
```diff
@@ -1,12 +1,13 @@
 /-
 Copyright (c) 2024 Joseph Tooby-Smith. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Joseph Tooby-Smith
+Authors: Joseph Tooby-Smith, Nikolai Kashcheev
```
Comment (jstoobysmith) [inline Physlib/Particles/StandardModel/Basic.lean]: Authors alphabetical by last name - so you first :).

File: Physlib/Particles/StandardModel/Basic.lean [hunk 3]
```diff
@@ -109,22 +110,214 @@ lemma ofU1Subgroup_toU1 (u1 : unitary ℂ) :
...
+        _ = 1 := hα⟩
+
+/-- The `SU(2)` scalar matrix associated to a sixth root of unity. -/
+noncomputable def gaugeGroupℤ₆SU2OfRoot (α : rootsOfUnity 6 ℂ) :
+    specialUnitaryGroup (Fin 2) ℂ :=
+  let u : unitary ℂ := gaugeGroupℤ₆UnitaryOfRoot α
+  let z : ℂ := ((α : ℂˣ) : ℂ)
+  let w : ℂ := star ((u ^ 3 : unitary ℂ) : ℂ)
+  ⟨scalar (Fin 2) w, by
+    rw [mem_specialUnitaryGroup_iff]
```
Comment (jstoobysmith) [inline Physlib/Particles/StandardModel/Basic.lean]: It might be easier with  this type of proof to do something like
```suggestion
noncomputable def gaugeGroupℤ₆SU2OfRoot (α : rootsOfUnity 6 ℂ) :
    specialUnitaryGroup (Fin 2) ℂ := by
  let u : unitary ℂ := gaugeGroupℤ₆UnitaryOfRoot α
  let z : ℂ := ((α : ℂˣ) : ℂ)
  let w : ℂ := star ((u ^ 3 : unitary ℂ) : ℂ)
  refine ⟨scalar (Fin 2) w,  ?_⟩
  ...
```
I believe it works in the same way.

File: Physlib/Particles/StandardModel/Basic.lean (hunk 1 above)
Comment (kastch) [reply Physlib/Particles/StandardModel/Basic.lean:114]: Hi @jstoobysmith ! But that's intentional - I was thinking to separate files as a part of the larger TODO item - like that one [TODO (2922400969207101000): file Physlib.Particles.StandardModel.Basic](https://physlib.io/todo#2922400969207101000)
I'm marking this as resolved, but if you still think we should start separating early - feel free to reopen.

**Review by jstoobysmith — APPROVED** [review]
Approved - this looks good to me.
